US07544690B2
To a cooled solution of {4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-benzyl}-carbamic acid tert-butyl ester (3.90 g, 9.57 mmol) in MeOH was added 1 M HCl in Et2O (67.0 ml, 67.0 mmol) and the solution was stirred for overnight. The resulting mixture was concentrated to give N2-(4-aminomethyl-benzyl)-N4,N4-dimethyl-quinazoline-2,4-diamine hydrochloride as a white crystalline solid (3.48 g, 95.6%).

reactant | {4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-benzyl}-carbamic acid tert-butyl ester | 9.57 mmol, 3.90 g | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C23H29N5O2
reactant | HCl | 1 M | Cl | ClH
reactant | Et2O | 67.0 mmol, 67.0 ml | CCOCC | C4H10O
solvent | MeOH | CO | CH4O
product | N2-(4-aminomethyl-benzyl)-N4,N4-dimethyl-quinazoline-2,4-diamine hydrochloride | 3.48 g, 95.6% | Cl.NCC1=CC=C(CNC2=NC3=CC=CC=C3C(=N2)N(C)C)C=C1 | InChI=1S/C18H21N5.ClH/c1-23(2)17-15-5-3-4-6-16(15)21-18(22-17)20-12-14-9-7-13(11-19)8-10-14;/h3-10H,11-12,19H2,1-2H3,(H,20,21,22);1H
